US04269846
2-(1,3,4-triazole-2-(1H,3H)-one-5-yl)-benzoxazole
Methyl benzoxazole-2-imidate, 8.0 g. and 5.2 g. of ethyl carbazate in 60 ml. of dioxane was heated at 110° overnight. After evaporation of solvent, the residue was suspended in 45 ml. of Dowtherm A and heated at 220° for 15 minutes. The precipitated product was filtered, washed with CH2Cl2, CH3OH, and dried to give 3.6 g. of solid, mp. >300°.

reactant | Methyl benzoxazole-2-imidate | O1C(=NC2=C1C=CC=C2)C(OC)=N | C9H8N2O2
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(1,3,4-triazole-2-(1H,3H)-one-5-yl)-benzoxazole | N1C(NN=C1C=1OC2=C(N1)C=CC=C2)=O | C9H6N4O2
